US06664285B1
Isoindigo was synthesized by reaction of oxindole with isatin in acetic acid with addition of hydrochloric acid (Wahl A., Bayard P., Comptes Rendues Hebdomadaires des Seances de L'Academie des Sciences, 148, (1909), 716-719).

reactant | oxindole | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | isatin | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | hydrochloric acid | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | Isoindigo | Yield: 84% | C=1C=CC2=C(C1)/C(=C\3/C=4C=CC=CC4NC3=O)/C(=O)N2 | C16H10N2O2
